US04220767
3-[2-(2-Thiazolylmethylthio)ethylamino]-6-(3-methoxybenzyl)-1,2,4-triazin-5-one
3-Methylthio-6-(3-methoxybenzyl)-1,2,4-triazin-5-one (1.18 g) and 2-(2-thiazolylmethylthio)ethylamine (0.87 g) were heated together on an oil bath (160°-70°) for 3/4 hour. The resulting oil, after chromatography and crystallisation from ethanol, gave the title compound as a colourless solid (0.83 g) m.p. 128°-29°.

reactant | 3-Methylthio-6-(3-methoxybenzyl)-1,2,4-triazin-5-one | 1.18 g | CSC1=NN=C(C(N1)=O)CC1=CC(=CC=C1)OC | C12H13N3O2S
reactant | 2-(2-thiazolylmethylthio)ethylamine | 0.87 g | S1C(=NC=C1)CSCCN | C6H10N2S2
product | 3-[2-(2-Thiazolylmethylthio)ethylamino]-6-(3-methoxybenzyl)-1,2,4-triazin-5-one | 0.83 g | S1C(=NC=C1)CSCCNC1=NN=C(C(N1)=O)CC1=CC(=CC=C1)OC | C17H19N5O2S2
